US07119207B2
6,6-Dimethyl-2-phenyl-piperidin-3-ylamine
To 2,2-Dimethyl-5-nitro-6-phenyl-piperidine in 0.4 mL of THF was added 0.2 mL of 6 M HCl and 100 mg (1.5 mmol) of zinc powder. The mixture was stirred at rt until complete by TLC analysis. The mixture was filtered through celite, rinsing with 5 mL of water. The aqueous solution was washed with Et2O (3×5 mL) and was then basified with 1 N NaOH to pH=12. The mixture was extracted with CHCl3 and the extracts were dried via filtration through a plug of cotton and concentrated to give 6 mg (69%) of the title compound as a colorless oil: mass spectrum m/e=205 (M+1)

reactant | 2,2-Dimethyl-5-nitro-6-phenyl-piperidine | CC1(NC(C(CC1)[N+](=O)[O-])C1=CC=CC=C1)C | C13H18N2O2
reactant | HCl | 6 M, 0.2 mL | Cl | ClH
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
catalyst | zinc | 1.5 mmol, 100 mg | [Zn] | Zn
product | 6,6-Dimethyl-2-phenyl-piperidin-3-ylamine | 6 mg, 69% | CC1(CCC(C(N1)C1=CC=CC=C1)N)C | C13H20N2
